Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Neurontin / bupropion / Demerol / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
___ Cardioversion of atrial tachycardia

 
History of Present Illness:
 Mr ___ is a ___ year old man with a PMH significant for 
dCHF (LVEF 60%), CAD s/p MI, and COPD who is transferred for 
management of shortness of breath.  
 Mr ___ was in his USOH until 2 days prior when he developed 
shortness of breath acutely. He had ongoing shortness of breath, 
unchanged before he decided to go to the hospital. Prior to 
this, he had no leg swelling, orthopnea or PND. Never had chest 
pain during any episodes. He presented to an outpatient office 
where he was observed to be dyspneic and he was tachy by EKG. He 
was referred in to the BI-M ED.  
 There, his oxygenation was 89 - 91%, he was tachypneic, a 
D-dimer was  
 negative and an NTBNP was 1200 (baseline BNP 250 which equals  
 about 1000 in NTBNP). INR was 7.1 and was given vitamin K. 
Trops there negative.  
 
 Per patient, his dry weight is 230lb and his weight has not 
significantly changed in the past week. His ___ edema is minor, 
he says his legs are "skinny."  
 ED COURSE:  
 - Initial vital signs: 10 98.2 115 115/76 18 98  
 - Exam was notable for volume overload  
 - Labs were notable for: BNP 1573, INR 6.0, BUN/CR 54/1.6  
 - No imaging was performed  
 - The patient was given: home torsemide 40mg with furosemide 
20mg and methadone 60mg  
 - Consults: None  
 - Vitals prior to transfer were: 112 131/86 16 95% RA  
 Upon arrival to the floor, Mr ___ is tired, but answers 
questions appropriately. He is intermittently SOB when his 
oxygen is off, but when on he feels well. No chest pain 
currently. Urinating normally.  
 
Past Medical History:
 COPD  
 Generalized anxiety disorder  
 Neuropthy  
 Chronic Pain Syndrome  
 B12 Deficiency  
 Venous insufficiency  
 Tobacco Dependence  
 Spinal Stenosis  
 Insomnia  
 BPH (benign prostatic hypertrophy)  
 Shoulder arthritis  
 CMC DJD (carpometacarpal degenerative joint disease),  
 ___ cyst, ruptured  
 Folate deficiency  
 Pulmonary nodules  
 QT prolongation  
 Heart failure, diastolic, acute on chronic  
 Atrial fibrillation  

 
Social History:
___
Family History:
No significant family history  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: 97.5 149/100 96-119 22 97/RA  
GENERAL: Sleepy, but arousable. Pleasant, well-appearing, in NAD 
 
HEENT: NCAT no scleral icterus, PERRLA, EOMI, OP clear  
NECK: supple, FROM no LAD JVP ~8-9cm  
CARDIAC: tachy but regular, normal S1/S2, no murmurs rubs or 
gallops  
PULMONARY: Rales in b/l bases no wheezes or rhonchi  
ABDOMEN: NABS soft, non-tender, non-distended, no organomegaly  
EXTREMITIES: WWP, no cyanosis, clubbing. 1+ edema to mid shin  
SKIN: no rashes/lesions  
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait assessment deferred   
PSYCHIATRIC: Listens & responds to questions appropriately, 
pleasant  

DISCHARGE PHYSICAL EXAM:
VS: T=97.7 BP= 125/73 HR= 80s RR= 18 O2 sat=95RA
GENERAL: WDWN obese male in NAD. Oriented x3. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with JVP below clavicle at 60 degrees.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Tachycardic, but regular, normal S1, S2. No m/r/g. No 
thrills, lifts. No S3 or S4.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.
ABDOMEN: Soft, protuberant, NTND. No HSM or tenderness. Abd 
aorta not enlarged by palpation. No abdominal bruits.
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses intact and symmetric

 
Pertinent Results:
LABS:
Admission:
___ 07:38PM BLOOD WBC-7.7 RBC-4.61 Hgb-15.2 Hct-46.5 
MCV-101* MCH-33.0* MCHC-32.7 RDW-16.4* RDWSD-60.7* Plt ___
___ 07:38PM BLOOD Neuts-64.8 ___ Monos-7.7 Eos-4.8 
Baso-0.4 Im ___ AbsNeut-4.96 AbsLymp-1.65 AbsMono-0.59 
AbsEos-0.37 AbsBaso-0.03
___ 08:16PM BLOOD ___ PTT-56.7* ___
___ 07:38PM BLOOD Glucose-129* UreaN-54* Creat-1.6* Na-138 
K-3.9 Cl-92* HCO3-32 AnGap-18
___ 05:07AM BLOOD ALT-24 AST-34 LD(LDH)-301* CK(CPK)-53 
AlkPhos-135* TotBili-1.6*

Cardiac enzymes:
___ 07:38PM BLOOD cTropnT-<0.01 proBNP-1573*
___ 05:07AM BLOOD CK-MB-2 cTropnT-<0.01

INR Trend:
___ 08:16PM BLOOD ___ PTT-56.7* ___
___ 05:07AM BLOOD ___ PTT-50.9* ___
___ 04:30AM BLOOD ___ PTT-44.2* ___

Discharge:
___ 04:30AM BLOOD WBC-6.9 RBC-4.31* Hgb-14.2 Hct-44.1 
MCV-102* MCH-32.9* MCHC-32.2 RDW-16.6* RDWSD-62.4* Plt ___
___ 04:30AM BLOOD Glucose-108* UreaN-41* Creat-1.6* Na-138 
K-3.9 Cl-91* HCO3-34* AnGap-17
___ 04:30AM BLOOD Calcium-9.4 Phos-4.0 Mg-2.1

STUDIES:
___ EKG:
Supraventricular tachycardia with extensive artifact. Probable 
atrial flutter with 2:1 conduction. No previous tracing 
available for comparison. 

___ TEE:
Conclusions   
 No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium/left atrial appendage or the body of the right 
atrium/right atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. Overall left ventricular systolic 
function is mildly depressed (LVEF= 45-50 %). There are simple 
atheroma in the aortic arch and the descending thoracic aorta. 
The right ventricle has depressed free wall contractility. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion. No masses or vegetations are seen on the 
aortic valve. No aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. No mass or vegetation is seen 
on the mitral valve. No mitral regurgitation is seen. There is a 
trivial/physiologic pericardial effusion. 

 IMPRESSION: No thrombi or spontaneous echo contrast in the 
atria or atrial appendages. Depressed biventricular systolic 
function. No significant valvular disease
 

___ Chest CT w/o contrast:
IMPRESSION:  
Pre-existing pulmonary emphysema and pulmonary nodules are 
stable.  No 
lymphadenopathy.  No pleural effusions.  No evidence of acute 
lung 

___ EKG
Sinus rhythm. Non-specific repolarization abnormalities. Cannot 
exclude 
inferior myocardial infarction of indeterminate age. Compared to 
the previous tracing of ___ there is no diagnostic change. 

 
Brief Hospital Course:
Mr ___ is a ___ year old man with a PMH significant for 
___, CAD s/p MI, atrial tachycardia, and COPD who is 
transferred for management of shortness of breath. 

#) Atrial tachycardia: Mr. ___ presented with dyspnea despite 
being at his dry weight and with no sings of volume overload on 
exam. CT chest showed stable pre-existing pulmonary emphysema 
and pulmonary nodules, with no acute lung process. His dyspnea 
was thought to be due to worsening of baseline lung disease with 
superimposed atrial tachycardia. TEE showed no atrial thrombi, 
depressed biventricular systolic function (EF 40%), no 
significant valvular disease. He received cardioversion of 
atrial tachycardia and remained in sinus rhythm thereafter, and 
comfortable on room air. Cardiac biomarkers unremarkable. 

#)Coagulopathy: Pt initially presented with supratherapeutic 
INR. This was thought to be ___ poor nutrition (pt reports not 
eating very much) and not taking his medicatins appropriately 
(pt reports taking his Coumadin BID). He had already received 
vitamin K prior to transfer. Warfarin was resumed at discharge. 

CHRONIC ISSUES  
 # HTN: Was normotensive on home meds, Please consider starting 
ACE if elevated
 # COPD: No signs of active exacerbation while admitted, 
continued home inhalers   
 # Chronic Pain Syndrome: Continued home methadone and dilaudid  

 # Tobacco Dependence: Nicotine patch  
 # Insomnia: continued home diazepam PRN  

TRANSITIONAL ISSUES:
--------------------
- He will need continued close monitoring of INR in setting of 
poor understanding of medication regimen and supratherapeutic 
INR.
- Torsemide dose was adjusted to 10mg daily and may need further 
adjustment following discharge.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Vitamin D ___ UNIT PO 1X/WEEK (___) 
2. Methadone 60 mg PO TID 
3. HYDROmorphone (Dilaudid) 8 mg PO TID 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Torsemide 40 mg PO BID 
6. Warfarin 2.5 mg PO DAILY16 
7. Diazepam 10 mg PO QHS:PRN Insomnia 
8. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
9. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 
10. Ipratropium Bromide MDI 2 PUFF IH BID 
11. Donnatal 5 mL PO DAILY:PRN GI Upset 
12. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 

 
Discharge Medications:
1. Torsemide 10 mg PO DAILY 
RX *torsemide 10 mg 1 tablet(s) by mouth Once a day Disp #*30 
Tablet Refills:*0
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Methadone 60 mg PO TID 
4. HYDROmorphone (Dilaudid) 8 mg PO TID 
5. Diazepam 10 mg PO QHS:PRN Insomnia 
6. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 
7. Warfarin 2.5 mg PO DAILY16 
8. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
9. Donnatal 5 mL PO DAILY:PRN GI Upset 
10. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
11. Ipratropium Bromide MDI 2 PUFF IH BID 
12. Vitamin D ___ UNIT PO 1X/WEEK (___) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Atrial tachycardia

SECONDARY DIAGNOSIS:
Supratherapeutic INR

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure being part of your care at ___. You were 
admitted to the hospital due to shortness of breath. You were 
found to be in an abnormal heart rhythm. You had an ablation 
procedure which successfully restored your heart to a normal 
rhythm. You also had a lung scan which showed chronic lung 
disease. 

After discharge, please follow up with your doctors as described 
below.

We wish you the best.
Your ___ care team
 
Followup Instructions:
___